US04605785
1-(3-Chlorophenyl)-1-[2-(ethoxycarbonylmethoxy)-phenyl]-propan-1-ol
A solution of 5.3 g. of 1-(3-chlorophenyl)-1-(2-hydroxyphenyl)-propan-1-ol and 3.8 g. of monobromoacetic acid ethyl ester in 60 ml. of dry acetone is boiled in the presence of 0.8 g. of potassium iodide and 6 g. of anhydrous potassium carbonate for 5 hours, with stirring. After cooling the reaction mixture solvent is distilled off under reduced pressure, to the residue water is added and it is extracted with benzene. The benzene phase is extracted with water and a 5% aqueous sodium hydroxide solution, washed to neutral with water and dried over anhydrous magnesium sulfate. Benzene is then distilled off in vacuo and the residue is crystallized from n-hexane. 5.6 g. of the named compound are obtained, melting at 83°-84° C.

reactant | 1-(3-chlorophenyl)-1-(2-hydroxyphenyl)-propan-1-ol | ClC=1C=C(C=CC1)C(CC)(O)C1=C(C=CC=C1)O | C15H15ClO2
reactant | monobromoacetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3-Chlorophenyl)-1-[2-(ethoxycarbonylmethoxy)-phenyl]-propan-1-ol | ClC=1C=C(C=CC1)C(CC)(O)C1=C(C=CC=C1)OCC(=O)OCC | C19H21ClO4
